US08895581B2
The imidazo[4,5-c]quinoline system is synthesised starting from 4-chloro-3-nitroquinolines D which are activated in the 6-position by a leaving group EWG, for example halogen, triflate or mesylate. Preferably 4-chloro-6-iodo-3-nitro-quinoline (D.1) or 6-bromo-4-chloro-3-nitro-quinoline (D.2) is used.

reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | 4-chloro-6-iodo-3-nitro-quinoline | ClC1=C(C=NC2=CC=C(C=C12)I)[N+](=O)[O-] | C9H4ClIN2O2
reactant | 6-bromo-4-chloro-3-nitro-quinoline | BrC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])Cl | C9H4BrClN2O2
product | imidazo[4,5-c]quinoline | N1C=NC=2C=NC=3C=CC=CC3C21 | C10H7N3
